US07989449B2
(3-Bromo-5-cyclopropylmethoxy-phenyl)-(4-methoxy-3-methyl-phenyl)methanone
In analogy to the procedure described for the preparation of the Building Block AU, the reaction of the 3-bromo-5-cyclopropylmethoxy-N-methoxy-N-methyl-benzamide and 4-bromo-1-methoxy-2-methyl-benzene, beforehand transformed to the Grignard reagent, yielded the title compound as a colourless oil (yield: 76% of theory). Mass (calculated) C19H19BrO3 [374]; (found) [M+H]+=375, 377.

reactant | 3-bromo-5-cyclopropylmethoxy-N-methoxy-N-methyl-benzamide | BrC=1C=C(C(=O)N(C)OC)C=C(C1)OCC1CC1 | C13H16BrNO3
reactant | 4-bromo-1-methoxy-2-methyl-benzene | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
product | (3-Bromo-5-cyclopropylmethoxy-phenyl)-(4-methoxy-3-methyl-phenyl)methanone | yield: 76% | BrC=1C=C(C=C(C1)OCC1CC1)C(=O)C1=CC(=C(C=C1)OC)C | C19H19BrO3
